US08314087B2
5-Bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one:
To a stirring solution of 5-bromo-1-(2-hydroxyethyl)pyridin-2(1H)-one (3000 mg, 13.7 mmol) in DMF (25 mL) was added sodium hydride (60% dispersion in mineral oil, 632.6 mg, 27.5 μmol) portionwise. After stirred for 30 min at 23° C., additional DMF (20 mL) was added to the thick suspension. To this was added 4-chloro-7-methoxyquinoline (2664 mg, 13.7 mmol). Upon completion, the reaction was quenched with 5% NaHCO3 (100 mL), and the aqueous was extracted with CH2Cl2 (4×75 mL). The combined organics were dried over MgSO4, concentrated from toluene, and purified on 80 grams of silica eluting with 30-80% of 5% MeOH/CH2Cl2. The product was isolated as a white solid. MS (ESI pos. ion) m/z (MH+): 375/377. Calc'd exact mass for C17H15BrN2O3: 374. 13C NMR (101 MHz, CDCl3) δ ppm 48.66, 54.80, 64.75, 97.11, 98.75, 106.69, 114.92, 118.10, 121.48, 121.78, 137.81, 142.38, 150.57, 151.00, 159.87, 160.24, 160.40

reactant | 5-bromo-1-(2-hydroxyethyl)pyridin-2(1H)-one | 13.7 mmol, 3000 mg | BrC=1C=CC(N(C1)CCO)=O | C7H8BrNO2
reactant | sodium hydride | 27.5 μmol, 632.6 mg | [H-].[Na+]
reactant | 4-chloro-7-methoxyquinoline | 13.7 mmol, 2664 mg | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one | BrC=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C17H15BrN2O3
